* OVERALL BEST CANDIDATE: 00_Phase_2_12V_to_48V_Audio_Amp_Boost_High_Pwr_g1_cand1_b1
* FITNESS SCORE: 0.7672
*
* Generated: 2026-06-02T16:25:21
* Constraint: Phase 2: 12V to 48V Audio Amp (Boost - High Pwr)
*   vin_min = 11
*   vin_max = 15
*   vout_target = 48
*   efficiency_target = 0.9
*   power_in = 150
* Candidate: 1 of 12
* Grouped name: g1_cand1
*
Vin in 0 15
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 3.2
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
